US07498460B2
3-[4-(4-phenoxybutoxy)phenyl]-1-propanol
20.1 ml of a 1 molar solution of lithium aluminium hydride in tetrahydrofuran is introduced. While stirring, a solution of 12.0 g of methyl 3-[4-(4-phenoxybutoxy)-phenyl]propanoate in 40 ml of THF is added dropwise in such a way that the mixture just starts to boil. The mixture is stirred at room temperature for 30 minutes. 1 ml of methanol is cautiously added to the suspension in order to hydrolyze excess lithium aluminium hydride. The mixture is then added to 1 molar hydrochloric acid and extracted with ethyl acetate. The organic phase is separated off, washed with saturated sodium chloride solution and dried over anhydrous sodium sulphate. Filtration and evaporation result in 10.9 g of product.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-[4-(4-phenoxybutoxy)-phenyl]propanoate | 12.0 g | O(C1=CC=CC=C1)CCCCOC1=CC=C(C=C1)CCC(=O)OC | C20H24O4
reactant | methanol | 1 ml | CO | CH4O
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-phenoxybutoxy)phenyl]-1-propanol | 10.9 g | O(C1=CC=CC=C1)CCCCOC1=CC=C(C=C1)CCCO | C19H24O3
